US05399578
N-(2-Carboxy-3-methyl-but-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-amine
980 mg of ethyl rac-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-2-(aminomethyl)-3-methylbutanoate in 3.1 ml of 2N NaOH are heated at 100° for 72 hours. Neutralization with 3.1 ml of 2N HCl and extraction with CH2Cl2 yields the product, Rf =0.30 (system N8).

reactant | ethyl rac-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-2-(aminomethyl)-3-methylbutanoate | 980 mg | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)CC(C(=O)OCC)C(C)C | C27H35N5O3
solvent | NaOH | 2N, 3.1 ml | [OH-].[Na+]
product | N-(2-Carboxy-3-methyl-but-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-amine | C(=O)(O)C(CN(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O)C(C)C | C25H31N5O3
